US06177462B1
In a 250 ml single neck flask was charged 12.4 g (100 mmoles,1.0 eq) of 4-fluorobenzaldehyde dissolved in 30 ml of acetone. To this was added 5 g of 10% aqueous sodium hydroxide solution (12.5 mmoles, 0.125 eq), dropwise and during the course of addition, temperature was kept no higher than 25° C., while the mixture was agitated continuously for 30 minutes. To the mixture was added 50 ml of water, followed by 100 ml of ethyl acetate, the phases were separated and the organic phase was washed with water three times and then dried, and concentrated to obtain 13.5 g of 4-(4-fluorophenyl)-3-buten-2-one as a faintly yellow oil in 82.3% yield.

reactant | 4-fluorobenzaldehyde | 100 mmoles, 12.4 g, 1.0 eq | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium hydroxide | 12.5 mmoles, 5 g, 0.125 eq | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-(4-fluorophenyl)-3-buten-2-one | 13.5 g, 82.3% yield | FC1=CC=C(C=C1)C=CC(C)=O | C10H9FO
